US05770737
Preparation of 4-(9.9-di-n-decyl-7-(2-thienyl)-9H-2-fluorenyl)pyridine
4-(7-bromo-9,9-didecyl-9H-2-fluorenyl)pyridine (2.32 g, 3.85 mmol) was weighed directly into a single-necked round bottom flask equipped with a magnetic stirrer and condenser which had been dried in an oven at 130° C. overnight. Toluene (20 ml, dried over CaCl2 and freshly distilled) and 2-(tributylstannyl)thiophene (1.47 ml 4.62 mmol) were added to the flask and the solution was degassed with nitrogen for 15 min. Tetrakis(triphenylphosphine)palladium (0) (0.34 g, 0.29 mmol) was added and the solution was heated at reflux for 16 hr under nitrogen. The reaction was cooled to room temperature and the toluene was removed under reduced pressure. The product was isolated by column chromatography using silica gel and 90:10 hexane/THF as the eluent to afford a yellow oil in 72.38% yield. If the oil was allowed to stand at room temperature it slowly solidified into a pale yellow waxy solid mp 58° C.-61° C. Mass Spec. m/z 605, (M+), 464, (M-C10 H21). Elemental Analysis: Calculated for C42H55NS: C, 83.25; H, 9.15; N, 2.31. Found: C, 83.34; H, 8.89; N, 2.31.

reactant | 4-(7-bromo-9,9-didecyl-9H-2-fluorenyl)pyridine | 3.85 mmol, 2.32 g | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(CCCCCCCCCC)CCCCCCCCCC)C1=CC=NC=C1 | C38H52BrN
reactant | 2-(tributylstannyl)thiophene | 4.62 mmol, 1.47 ml | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
catalyst | Tetrakis(triphenylphosphine)palladium | 0.29 mmol, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane THF | CCCCCC.C1CCOC1
product | 4-(9.9-di-n-decyl-7-(2-thienyl)-9H-2-fluorenyl)pyridine | 72.38% yield | C(CCCCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C1=CC=NC=C1)C=1SC=CC1)CCCCCCCCCC | C42H55NS
